Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Latex / Vancomycin / Morphine
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo M with a history of chronic pancreatitis, s/p 
cholecystectomy who was 
recently admitted on ___ for a similar presentation, 
including BRBPR with HCT decrement from 43 to 34, was prepped 
for colonoscopy, but left against medical advice prior to 
colonoscopy, allegedly due to feeling frustrated with inadequate 
directions on how to conduct the bowel prep.
.
He presents on ___ with his typical pancreatitis symptoms 
after eating a large breakfast, including epigastric stabbing 
abdominal pain radiating to his back, nausea, vomiting, and 
inability to tolerate POs. In the ED, he was given Zofran 4 mg 
IV x 1, Dilaudid 1 mg x 2 and NS 2 L IV and was found to have a 
HCT decrement from 38 to 32 after 6 hours. Abdominal CT showed 
intrahepatic dilation, without stones. No hematemesis. Darkening 
___ stool, with a few drops of blood at end.
.
ROS: No CP, no SOB, no cough, no dysuria, no skin rashes. 
 
Past Medical History:
1. Chronic Pancreatitis ___ alcohol s/p Puestow lateral 
pancreaticojejunostomy with Roux-en-Y connection and open 
cholecystectomy ___. Multiple bouts of pancreatitis.
2. hx of gastritis and duodenitis
3. h/o alcohol abuse; sober since ___
4. Diabetes mellitus
5. Syphilis / + RPR s/p Rx ___ (LP negative)
6. Hyperparathyroidism s/p parathyroidectomy ___. Chest wall mass, fungal, ___
8. Bacteremia: ___ until ___ , at ___ and port 
associated bacteremias with ___, and Acinetobacter 
bacteremia.
 
Social History:
___
Family History:
Grandfather - ___ Cancer
Mother - Alive and Healthy
Father - Alive and Healthy
 
Physical Exam:
VS: T:97.9, BP:139/90, HR:61, RR:18, 98%RA, Glu 94
.
GEN: A&Ox4, mildly aggitated
HEENT: OP: clear, NP: clear, no LAD
CV: RRR, no m/g/r
PULM: CTA B, no w/r/r
GI: Soft, +TTP diffusely, nl BS, no guarding, no rebound
EXT: no c/c/e
SKIN: no lesions

 
Pertinent Results:
LABS: 
___ 12:45PM BLOOD WBC-3.0* RBC-4.33* Hgb-12.5* Hct-38.0* 
MCV-88 MCH-28.9 MCHC-32.9 RDW-14.9 Plt ___
___ 06:40PM BLOOD Hct-32.6*
___ 08:15PM BLOOD Hct-32.9*
___ 05:45AM BLOOD WBC-4.0 RBC-3.60* Hgb-10.7* Hct-31.9* 
MCV-89 MCH-29.7 MCHC-33.5 RDW-14.3 Plt ___
___ 05:00PM BLOOD WBC-3.0* RBC-3.73* Hgb-11.0* Hct-32.8* 
MCV-88 MCH-29.5 MCHC-33.5 RDW-14.1 Plt ___
___ 09:00PM BLOOD WBC-2.9* RBC-3.99* Hgb-11.7* Hct-35.2* 
MCV-88 MCH-29.4 MCHC-33.3 RDW-14.0 Plt ___
___ 05:50AM BLOOD WBC-3.4* RBC-4.04* Hgb-12.1* Hct-35.5* 
MCV-88 MCH-29.9 MCHC-34.0 RDW-13.9 Plt ___
___ 09:00AM BLOOD WBC-3.4* RBC-4.12* Hgb-12.5* Hct-36.4* 
MCV-88 MCH-30.4 MCHC-34.4 RDW-13.8 Plt ___
___ 09:00AM BLOOD Plt ___
___ 05:50AM BLOOD Plt ___
___ 05:45AM BLOOD ___ PTT-28.5 ___
___ 12:45PM BLOOD Glucose-108* UreaN-9 Creat-1.0 Na-141 
K-3.9 Cl-104 HCO3-30 AnGap-11
___ 05:45AM BLOOD Glucose-127* UreaN-6 Creat-0.8 Na-138 
K-3.4 Cl-103 HCO3-30 AnGap-8
___ 05:50AM BLOOD Glucose-101* UreaN-7 Creat-0.9 Na-140 
K-3.6 Cl-101 HCO3-33* AnGap-10
___ 09:00AM BLOOD Glucose-99 UreaN-9 Creat-1.0 Na-142 K-4.0 
Cl-103 HCO3-29 AnGap-14
___ 12:45PM BLOOD ALT-69* AST-54* AlkPhos-129 TotBili-0.6
___ 05:45AM BLOOD ALT-310* AST-491* AlkPhos-261* 
TotBili-1.0
___ 05:50AM BLOOD ALT-214* AST-149* AlkPhos-245* 
TotBili-1.2
___ 09:00AM BLOOD ALT-156* AST-77* AlkPhos-221* TotBili-1.1
___ 12:45PM BLOOD Lipase-12
___ 05:45AM BLOOD Lipase-11
___ 12:45PM BLOOD Calcium-8.9 Phos-2.9 Mg-2.3
___ 05:50AM BLOOD Calcium-9.4 Phos-3.8 Mg-2.0
___ 09:00AM BLOOD Calcium-8.8 Phos-3.9 Mg-2.1
___ 05:45AM BLOOD calTIBC-332 Ferritn-36 TRF-255
.
.
STUDIES:
___ CT A/P:
CT OF THE ABDOMEN WITH IV CONTRAST: There is increased 
intrahepatic biliary dilatation with acute tapering at the level 
of the head of the pancreas. Given the extensive pamcreatic 
calcification likely from chronic pancreatitis, potential 
etiology of CBD obstruction includes stricturing. The liver, 
spleen, both adrenals are unremarkable. The patient is status 
post cholecystectomy. There are calcifications within the 
pancreas consistent with sequelae of chronic pancreatitis. 
Multiple hypodensities within both kidneys likely represent 
benign renal cysts. No abdominal, retroperitoneal or mesenteric 
lymphadenopathy is noted. The patient has had prior bowel 
surgery noted in the right upper quadrant, unchanged. The small 
and large bowel is otherwise unremarkable. No abdominal free 
fluid or free air is noted. 
.
IMPRESSION: Increased intrahepatic and extrahepatic biliary 
ductal dilatation with abrupt tapering at the level of the 
pancreatic head. Recommend clinical correlation and MRCP to 
exclude obstructing mass.  
.
.
___ LIVER USN:
IMPRESSION: Intra- and extra-hepatic biliary dilatation with no 
clear 
obstructing lesion identified. Please note that the distal CBD 
and head of 
the pancreas were not visualized secondary to overlying bowel 
gas. 

 
Brief Hospital Course:
___ y/o M with PMHx significant for chronic pancreatitis admitted 
with abdominal pain similar to prior presentations of 
pancreatitis with some blood tinged stools. 

# acute on chronic pancreatitis - pt presented with symptoms 
simlar to prior episodes of pancreatitis, without clear trigger. 
 CT imaging confirmed sequelae of chronic pancreatitis, and 
showed new biliary ductal dilation, but no evidence of abcess or 
pseudocyst.  
. 
he was treated with IVF, bowel rest, antiemetics, and pain 
control.  On HD#3 his symptoms improved, and his diet was 
advanced without difficulty.  He was discharged home with 
instructions to follow-up with Dr. ___ as below. 
. 
# transaminitis / biliary dilation - pt with new findings of 
"increased intrahepatic and extrahepatic biliary ductal 
dilatation with abrupt tapering at the level of the pancreatic 
head."  LFTs were initially elevated (200s), but trended down 
quickly.  This could represent a passed stone, inflammatory 
stricture, or mass.  MRCP was recommended, however pt elected to 
be discharged home and pursue this as an outpt.   A follow-up 
appointment was made for him with Dr. ___ to follow his 
LFTs, and he was instructed to call to schedule an MRCP 
preferably before his visit.  
. 
# rectal bleeding - during last admission pt was noted to have 
dark stools, and HCT decline, ___ was recommended by GI, 
however, pt left AMA ___ family issues.  His HCT was stable 
throughout this admission, thus he was instructed to follow-up 
with his PCP and arrange for outpatient colonoscopy. 
. 
# DM2 - pt covered with SSI while inpatient. 
 
Medications on Admission:
Glargine 5 units SC qhs
Insulin regular ___ units with meals
Prilosec 20mg PO daily
Dilaudid ___ PO q4 hours prn
Zofran 4mg PO q8 hours prn
Creon 3 capusles PO TID

 
Discharge Medications:
1. Insulin Glargine 100 unit/mL Solution Sig: 5 UNITS  
Subcutaneous at bedtime.  
2. Insulin Regular Human 100 unit/mL Solution Sig: ___ units 
with meals  Injection three times a day.  
3. Prilosec 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
4. Dilaudid 2 mg Tablet Sig: ___ Tablets PO every four (4) hours 
as needed for pain.  
5. Zofran 4 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for nausea.  
6. Creon 10 249 mg (10,000- 37.5K-33K unit) Capsule, Delayed 
Release(E.C.) Sig: Three (3) Capsule, Delayed Release(E.C.) PO 
three times a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute on chronic pancreatitis. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
you were admitted to the hospital with abdominal pain consistent 
with your prior episodes of pancreatitis.  you were treated with 
bowel rest, and improved. 
.
you liver function tests were elevated, and some narrowing was 
seen of your common bile duct.  you should have an MRCP test to 
evaluate this further within ___ weeks of your discharge.  this 
will need to be arranged by dr. ___.  
. 
you will also need to discuss with Dr. ___ an endoscopy 
and/or colonoscopy to evaluate your anemia.  this was scheduled 
to be done during your last admission, but you left against 
medical advice.  this admission, your blood count has been 
stable. 
.
the following changes were made to your medication regimen:
1. none. 
 
Followup Instructions:
___